US07122666B2
10(iv)′ (2S,8aS)-2-Methoxy-7-(1-pyrrolidinyl)-1,2,3,5,8,8a-hexahydroindolizin-5-one
3.07 ml (36.8 mmol) of pyrrolidine were added to a solution of 3.38 g (18.4 mmol) of (2S,8aS)-2-methoxy-1,2,3,5,6,7,8,8a-octahydroindolizine-5,7-dione [obtained as described in Preparative Example 10(iii)′ above] in 34 ml of ethanol, and the resulting mixture was left to stand for 30 minutes at room temperature. At the end of this time, the solvent and any excess pyrrolidine were distilled off under reduced pressure to afford 4.26 g (yield: 98%) of the title compound as a brown oil.

reactant | pyrrolidine | 36.8 mmol, 3.07 ml | N1CCCC1 | C4H9N
reactant | (2S,8aS)-2-methoxy-1,2,3,5,6,7,8,8a-octahydroindolizine-5,7-dione | 18.4 mmol, 3.38 g | CO[C@H]1C[C@H]2CC(CC(N2C1)=O)=O | C9H13NO3
solvent | ethanol | 34 ml | C(C)O | C2H6O
product | (2S,8aS)-2-Methoxy-7-(1-pyrrolidinyl)-1,2,3,5,8,8a-hexahydroindolizin-5-one | 4.26 g, yield: 98% | CO[C@H]1C[C@@H]2CC(=CC(N2C1)=O)N1CCCC1 | C13H20N2O2
